US03952044
1.20 Grams of methyl methylthiomethyl sulfoxide was dissolved in 10 ml of tetrahydrofuran (THF), and to which 250 mg of sodium hydride was added under cooling with ice. Then the system was stirred for 30 minutes at room temperature. Subsequently, 1.25 ml of isobutyronitrile was added, followed by 13 hours' stirring at room temperature, further addition of 50 ml of methylene chloride and 1 ml of water, and additional 30 minutes' stirring at room temperature. After drying with Glauber's salt, the reaction mixture was concentrated under reduced pressure to provide a light yellow, crystalline product. Recrystallizing (washing) the same from carbon tetrachloride and cyclohexane, 682 mg of 1-methylsulfinyl-1-methylthio-2-amino-3-methyl-1-butene was obtained as a light yellow solid. The mother liquor was passed through a column chromatography (silica gel, methylene chloride, ethyl acetate, and methanol) to yield 672 mg of a mixture of methyl methylthiomethyl sulfoxide with 1-methylsulfinyl-1-methylthio-2-amino-3-methyl-1-butene as a light yellow oil, which was confirmed to be a mixture of 575 mg of methyl methylthiomethyl sulfoxide and 97 mg of 1-methylsulfinyl-1-methylthio-2-amino-3-methyl-1-butene, upon NMR quantitative analysis. The latter's isolation yield was 41.7%, and the conversion yield was 80.2%. The sample for the analysis was obtained by recrystallizing the product from chloroform-n-hexane.

reactant | methyl methylthiomethyl sulfoxide | CSCS(=O)C | C3H8OS2
reactant | sodium hydride | 250 mg | [H-].[Na+]
reactant | isobutyronitrile | 1.25 ml | C(C(C)C)#N | C4H7N
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 1-methylsulfinyl-1-methylthio-2-amino-3-methyl-1-butene | 682 mg | CS(=O)C(=C(C(C)C)N)SC | C7H15NOS2
